US07696223B2
c) {[2-(4-Fluoro-phenyl)-7-hydroxy-4-methyl-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 2-(4-fluoro-phenyl)-7-hydroxy-4-methyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (70 mg, 0.21 mmol) and glycine (317 mg, 4.23 mmol) in 0.5 M sodium methoxide/methanol (8 mL) was refluxed for four days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (25 mL) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (6 mL). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (62 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.01 (br s, 1H), 9.22 (br s, 1H), 8.20 (m, 2H), 7.40 (m, 2H), 4.03 (d, J=5.9 Hz, 2H), 2.86 (s, 3H); MS: (+) m/z 361.87 (M+1).

reactant | 2-(4-fluoro-phenyl)-7-hydroxy-4-methyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.21 mmol, 70 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C)N=C(S2)C2=CC=C(C=C2)F)O | C16H13FN2O3S
reactant | glycine | 4.23 mmol, 317 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 8 mL | C[O-].[Na+].CO
product | {[2-(4-Fluoro-phenyl)-7-hydroxy-4-methyl-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 62 mg | FC1=CC=C(C=C1)C=1SC2=C(C(=NC(=C2O)C(=O)NCC(=O)O)C)N1 | C16H12FN3O4S
